US07994176B2
4′-{3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid methyl ester
Bring a mixture of trifluoro-methanesulfonic acid 4-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5-dichloro-phenyl ester (0.61 g, 0.84 mmol), 4-methoxycarbonylphenylboronic acid (0.18 g, 1 mmol), sodium carbonate (0.267 g, 2.52 mmol) in THF (15 mL) and water (5 mL) to 60° C. To the mixture at 60° C., add Pd(PPh3)4 (0.048 g, 0.04 mmol). Raise the reaction temperature to 80° C. and stir for 1 hour. Cool the reaction, dilute with ethyl acetate, and wash with water and brine. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify on silica gel column with 25% ethyl acetate in hexanes to afford 0.56 g (93%) of the titled product. MS (m/z): 714 (M+).

reactant | trifluoro-methanesulfonic acid 4-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5-dichloro-phenyl ester | 0.84 mmol, 0.61 g | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)OS(=O)(=O)C(F)(F)F)Cl)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38Cl2F3NO5SSi
reactant | 4-methoxycarbonylphenylboronic acid | 1 mmol, 0.18 g | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 2.52 mmol, 0.267 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 0.048 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-{3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid methyl ester | 0.56 g, 93% | COC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)Cl)CN1C(C(CC1)C1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)Cl | C41H45Cl2NO4Si
